US09029591B2
Dinitroethane (2.4 g, 0.02 mol) and potassium hydroxide (1.2 g, 0.022 mol) were dissolved in 50 mL of water to form a first solution. 50 mL of water was added to the first solution to dissolve a salt remaining in the first solution to form a second solution. Hexyl acrylate (8.8 mL, 0.05 mol) was mixed with 50 mL of methanol, and then the mixture was slowly added to the second solution to form a third solution. The third solution was stirred at room temperature for 4 hours. The reaction product was extracted by diethyl ether, and was then distilled under reduced pressure to obtain yellow liquid hexyl 4,4-dinitropentanoate (4.5 g, yield: 81%).

reactant | Dinitroethane | 0.02 mol, 2.4 g | [N+](=O)([O-])C(C)[N+](=O)[O-] | C2H4N2O4
reactant | potassium hydroxide | 0.022 mol, 1.2 g | [OH-].[K+]
reactant | Hexyl acrylate | 0.05 mol, 8.8 mL | C(C=C)(=O)OCCCCCC | C9H16O2
reactant | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | hexyl 4,4-dinitropentanoate | 4.5 g, yield: 81% | [N+](=O)([O-])C(CCC(=O)OCCCCCC)(C)[N+](=O)[O-] | C11H20N2O6
